US08232395B2
150 g (519 mmol) of N-Boc-5-ethoxycarbonylindole and 192 ml (833 mmol) of triisopropyl borate in 350 ml of toluene were admixed at from 5° C. to 10° C. with 350 ml of a 1.8 molar solution of LDA in THF. The mixture was stirred for a further 5 min and the reaction mixture was added to a solution of 278 g of 30% hydrochloric acid and 940 ml of water. Subsequently, the mixture was stirred at from 5° C. to 10° C. for 30 min. Thereafter, the mixture was filtered and the filtercake was suspended in 530 ml of ethanol. This suspension was added at 40° C. to a solution of 500 ml of 30% hydrochloric acid and 224 ml of ethanol. Subsequently, the mixture was stirred at from 40° C. to 45° C. for 2.5 h and admixed at 30° C. with 380 ml of water. The mixture was then cooled to from 10° C. to 15° C., stirred at this temperature for 30 min and filtered. Drying under reduced pressure afforded 79.5 g (61% of theory) of 2-borono-5-ethoxycarbonylindole (HPLC: 92.7 area %).

reactant | N-Boc-5-ethoxycarbonylindole | 519 mmol, 150 g | C(=O)(OC(C)(C)C)N1C=CC2=CC(=CC=C12)C(=O)OCC | C16H19NO4
reactant | triisopropyl borate | 833 mmol, 192 ml | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | hydrochloric acid | 278 g | Cl | ClH
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
solvent | THF | C1CCOC1 | C4H8O
solvent | water | 940 ml | O | H2O
product | 2-borono-5-ethoxycarbonylindole | 79.5 g, 61% | B(O)(O)C=1NC2=CC=C(C=C2C1)C(=O)OCC | C11H12BNO4
